US04423076
1-Neohexyl-3-(2-Chloroethyl) Urea.
A 5 g quantity of 3,3-dimethyl butylamine (0.5 mol) was dissolved in 30 ml of anhydrous diethyl ether and stirred on an ice bath. 2-Chloroethyl isocyanate (5.25 g, 0.5 mol) dissolved in 15 ml of ether was added maintaining a temperature of 10° C. or less, and stirring continued for 2 hrs. Filtering the product and washing with four 5 ml portions of chilled ether afforded 6.2 g (60%) which melted at 84° C. (decomposes). IR analysis showed peaks at 1625/cm (C=O) and 1580/cm (N--C=O). NMR: singlet (9H) at 0.9 ppm, multiplet (2H) at 1.3 ppm, multiplet (2H) at 3.2 ppm, multiplet (4H) at 3.5 ppm, singlet (1H) at 5.5 ppm, and singlet (1H) at 5.7 ppm.

reactant | 3,3-dimethyl butylamine | 0.5 mol | CC(CCN)(C)C | C6H15N
reactant | 2-Chloroethyl isocyanate | 0.5 mol, 5.25 g | ClCCN=C=O | C3H4ClNO
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
product | 1-Neohexyl-3-(2-Chloroethyl) Urea | C(CC(C)(C)C)NC(=O)NCCCl | C9H19ClN2O
